US08633211B2
Intermediate Q (2,4-Dioxo-1,4-dihydro-2H-pyrido[3,2-d]pyrimidin-3-yl)-acetic acid t-butyl ester
A 2-5 ml Biotage microwave vial is charged with Pd(OAc)2 (2.5 mol %, 4.6 mg, 0.019 mmol), Xantphos (5 mol %, 22.3 mg, 0.038 mmol), ureido-acetic acid tert-butyl ester (223.7 mg, 1.216 mmol), and Cs2CO3 (736.6 mg, 1.9 mmol). Methyl 3-iodopyridine-2-carboxylate (200.4 mg, 0.76 mmol) is added, followed by 1-4-dioxane (4 ml). The vessel is sealed and treated in the microwave at 120° C. for 5400 seconds. EtOAc was added to the mixture and decanted off. LCMS of this (+ELS) indicated no product. Water added to the residue giving rise to a white solid. LCMS of this material (+ELS) showed product. Material taken up in EtOAc, washed with brine (3×20 ml), then water (2×20 ml). The organic portions are passed through Celite® and the solvent removed in vacuo to give the title compound; [M+H]+ 278

reactant | Xantphos | 0.038 mmol, 22.3 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | ureido-acetic acid tert-butyl ester | 1.216 mmol, 223.7 mg | C(C)(C)(C)OC(CNC(=O)N)=O | C7H14N2O3
reactant | Cs2CO3 | 1.9 mmol, 736.6 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Methyl 3-iodopyridine-2-carboxylate | 0.76 mmol, 200.4 mg | IC=1C(=NC=CC1)C(=O)OC | C7H6INO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.019 mmol, 4.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | 1-4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | (2,4-Dioxo-1,4-dihydro-2H-pyrido[3,2-d]pyrimidin-3-yl)-acetic acid t-butyl ester | C(C)(C)(C)OC(CN1C(NC2=C(C1=O)N=CC=C2)=O)=O | C13H15N3O4
